US03982002
1.617 g. of vincamine (0.005 mole) is dissolved in 15 ml. of chloroform, and 0.8 g. (0.055 mole) of 2-ketoglutaric acid previously dissolved in 5 ml. of methanol is added. After concentration of the resulting solution in a rotary evaporator until a volume of 5 ml. is obtained, 1.75 g. of vincamine 2-ketoglutarate is obtained. By subsequent successive concentrations, an additional amount of 0.5 g. of salt is obtained. A total of 2.25 g. is thus obtained (yield 90%).

reactant | vincamine | 0.005 mole | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3 | C21H26N2O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 2-ketoglutaric acid | 0.055 mole | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | methanol | CO | CH4O
product | vincamine 2-ketoglutarate | yield 90% | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.O=C(C(=O)[O-])CCC(=O)[O-] | InChI=1S/C21H26N2O3.C5H6O5/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;6-3(5(9)10)1-2-4(7)8/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;1-2H2,(H,7,8)(H,9,10)/p-2/t18-,20+,21+;/m1./s1
